US05503760
Example 1) Di-n-octyl Ether
206 kg (1581.8 moles) of n-octanol were heated to 190°-210° C. together with 2.94 kg of sulfosuccinic acid (70% by weight). The water of reaction formed was distilled off. After 7 hours, 10.3 g of 50% by weight sodium hydroxide were added to the cooled reaction mixture for neutralization, after which the crude product was washed until neutral and then distilled.

reactant | n-octanol | 1581.8 moles, 206 kg | C(CCCCCCC)O | C8H18O
reactant | sulfosuccinic acid | 2.94 kg | S(=O)(=O)(O)C(C(=O)O)CC(=O)O | C4H6O7S
solvent | water | O | H2O
product | Di-n-octyl Ether | C(CCCCCCC)OCCCCCCCC | C16H34O
